US04455422
1.57 Grams of 6-[1-hydroxy-4-(4-phenyl-1-piperazinyl-butyl]-3,4-dihydrocarbostyril and 0.2 g of palladium black were suspended in 100 ml of dioxane, then 10 ml of concentrated hydrochloric acid was added thereto and the mixture was catalytically hydrogenated under 1.5-3.0 kg/cm2 of hydrogen gas at 80°-90° C. The catalyst was removed by filtration and the filtrate was dried under a reduced pressure. To the residue thus obtained were added 10N-NaOH and ether and the mixture was stirred at a room temperature for 30 mintues. The crystals formed were collected by filtration and separated by a silica-gel chromatography, then recrystallized from isopropanol-diisopropyl ether to obtain 6-[4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydro-carbostyril. Yield: 0.60 g (40%). Colorless prism-like crystals. Melting point: 151°-152° C.

reactant | 1-hydroxy-4-(4-phenyl-1-piperazinyl-butyl]-3,4-dihydrocarbostyril | ON1C(=O)CC(C2=CC=CC=C12)C(CCCC1=CC=CC=C1)N1CCNCC1 | C23H29N3O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | palladium black | 0.2 g | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | 6-[4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydro-carbostyril | C1(=CC=CC=C1)N1CCN(CC1)CCCCC=1C=C2CCC(NC2=CC1)=O | C23H29N3O
